US05219868
A mixture of 71,0 g of 1-(3,4-dimethylphenyliminomethyl)-2-nitroiminoimidazolidine, 48.5 g of 2-chloro-5-chloromethylpyridine, 50.0 g of potassium carbonate and 200 g of dimethylsulfoxide was agitated at 70° C. for 1 hour. After cooling to room temperature, about 800 ml of water and about 200 ml of ethyl acetate were added to the reaction mixture, followed by agitation, separation into settled crystals and a filtrate, washing with water, drying and recrystallization of a combination of the crystals with those obtained by concentration to about 1/5 from about 400 ml of acetonitrile to give 41 g of 1-(2-chloropyridine-5-ylmethyl)-2-nitroimino-3-(3,4-dimethylphenyliminomethyl)imidazolidine.

reactant | 1-(3,4-dimethylphenyliminomethyl)-2-nitroiminoimidazolidine | 71,0 g | CC=1C=C(C=CC1C)N=CN1C(NCC1)=N[N+](=O)[O-] | C12H15N5O2
reactant | 2-chloro-5-chloromethylpyridine | 48.5 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | potassium carbonate | 50.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 200 g | CS(=O)C | C2H6OS
solvent | ethyl acetate | about 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | about 800 ml | O | H2O
product | 1-(2-chloropyridine-5-ylmethyl)-2-nitroimino-3-(3,4-dimethylphenyliminomethyl)imidazolidine | 41 g | ClC1=NC=C(C=C1)CN1C(N(CC1)C=NC1=CC(=C(C=C1)C)C)=N[N+](=O)[O-] | C18H19ClN6O2
